US07713993B2
(5) Synthesis of 3-(3-fluorophenyl)-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazole
A solution of 2-(3-fluorophenyl)-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazole (50 mg) and ammonium acetate (205 mg) in acetic acid (3 mL) was heated under reflux at 150° C. for 1.5 hours. The reaction solution was left to cool to room temperature and concentrated under reduced pressure. Ethyl acetate and saturated sodium bicarbonate water were added to the residue, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate->ethyl acetate:methanol=5:1) to obtain 29 mg of the title compound. The property value of the compound is as follows.

reactant | 2-(3-fluorophenyl)-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazole | 50 mg | FC=1C=C(C=CC1)C=1OC(=NN1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C21H17FN4O2
reactant | ammonium acetate | 205 mg | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 3-(3-fluorophenyl)-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazole | 29 mg | FC=1C=C(C=CC1)C1=NN=C(N1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C21H18FN5O
